US04876354
15.5 ml (23 mmol) of a 1.5 molar solution of n-butyllithium in hexane were added dropwise to a solution of 3.85 g (20 mmol) of N-(3-chlorobenzyl)-imidazole in 46 ml of absolute THF at -70° C. The mixture was stirred for 30 minutes at -70° C., after which a solution of 3.20 g (20 mmol) of 1-formyladamantane in 20 ml of absolute THF was added dropwise at -70° C. Stirring was continued for 1 hour at about -70° C. and for 2 hours at about -70° C. to room temperature, 120 ml of water were added at about 10° C., while cooling, and the suspension formed was stirred for 1.5 hours at 5°-8° C. Thereafter, the crystalline substance (crude product) was filtered off under suction and rinsed with water and hexane, and the crystalline product, dissolved in CH2Cl2, was filtered over a silica gel/CH2Cl2 column (diameter 2.0 cm, height 20 cm). The filtered solution was evaporated down in vacuo and the residue (2.36 g) was crystallized from acetone. 2.15 g (=30.1% yield) of pure 1-(1-adamantyl)-2-(3-chlorophenyl)-2-(1-imidazolyl)-ethanol of melting point 115° C. were obtained.

reactant | n-butyllithium | C(CCC)[Li]
reactant | N-(3-chlorobenzyl)-imidazole | 20 mmol, 3.85 g | ClC=1C=C(CN2C=NC=C2)C=CC1 | C10H9ClN2
reactant | 1-formyladamantane | 20 mmol, 3.20 g | C(=O)C12CC3CC(CC(C1)C3)C2 | C11H16O
reactant | water | 120 ml | O | H2O
solvent | hexane | CCCCCC | C6H14
solvent | THF | 46 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 1-(1-adamantyl)-2-(3-chlorophenyl)-2-(1-imidazolyl)-ethanol | 2.15 g, 30.1% yield | C12(CC3CC(CC(C1)C3)C2)C(C(N2C=NC=C2)C2=CC(=CC=C2)Cl)O | C21H25ClN2O
